US09169254B2
0.5 M sodium ethoxide (1.6 ml, 4.31 mmol) was added to a solution of ethyl 7-bromoheptanoate (300 mg, 1.44 mmol) in ethanol (7.0 ml), and the mixture was heated under reflux for two hours. The reaction mixture was concentrated under reduced pressure, and the resulting residue was then purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give ethyl 7-ethoxyheptanoate (102.4 mg, 40%).

reactant | sodium ethoxide | 4.31 mmol, 0.5 M, 1.6 ml | [O-]CC.[Na+]
reactant | ethyl 7-bromoheptanoate | 1.44 mmol, 300 mg | BrCCCCCCC(=O)OCC | C9H17BrO2
solvent | ethanol | 7.0 ml | C(C)O | C2H6O
product | ethyl 7-ethoxyheptanoate | 102.4 mg, 40% | C(C)OCCCCCCC(=O)OCC | C11H22O3
